US07279478B2
Step 1 (2S)-N-(cyanomethyl)-2-hydroxy-4-methylpentanamide
L-leucic acid (85 g, 0.643 mole), amino acetonitrile hydrochloride (68 g, 0.734 mole, 1.14 eg), pyBOP (319 g, 0.612 mole, 0.95 eg) were mixed together in DMF (1 L) and cooled at 0° C. Triethylamine (149 g, 1.47 mole, 2.4 eg) was added dropwise at a rate to maintain internal temperature ≦20° C. Reaction mixture was then allowed to warm to room temperature and stirred for 18 hours. Reaction mixture was poured portionwise into saturated NaHCO3 (4 L) and extracted with EtOAc (2×1 L). Half saturated NaCl solution was added to help partition. Combined organic fractions were washed with brine, 0.5 N HCl, brine, dried and evaporated to give a dark red oil. The latter was passed through a silica plug with 50% EtOAc/hexane to give of the title compound.

reactant | L-leucic acid | 0.643 mole, 85 g | C([C@@H](O)CC(C)C)(=O)O | C6H12O3
reactant | amino acetonitrile hydrochloride | 0.734 mole, 68 g | Cl.NCC#N
reactant | Triethylamine | 1.47 mole, 149 g | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 4 L | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | (2S)-N-(cyanomethyl)-2-hydroxy-4-methylpentanamide | C(#N)CNC([C@H](CC(C)C)O)=O | C8H14N2O2
